US07618960B2
Synthesis of tert-butyl(S)-5-(tert-butyldiphenylsilanyloxy)-2-(diethoxyphosphoryl)-4-methylvalerate
A solution tert-butyl diethylphosphonoacetate (64 g) in THF (100 mL) was added dropwise to a suspension of sodium hydride (containing 40% mineral oil, 13.2 g) in THF (400 mL) under ice-cooling, and the reaction mixture was stirred at room temperature for 75 minutes. A solution of ((R)-3-bromo-2-methylpropoxy)-tert-butyldiphenylsilane (99.4 g) in THF (100 mL) was added dropwise to the reaction mixture, which was then heated under reflux for 23 hours. Ice water was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 74.6 g of the title compound. The property values of the compound are as follows.

reactant | tert-butyl diethylphosphonoacetate | 64 g | C(C)OP(=O)(OCC)CC(=O)OC(C)(C)C | C10H21O5P
reactant | sodium hydride | 13.2 g | [H-].[Na+]
reactant | ((R)-3-bromo-2-methylpropoxy)-tert-butyldiphenylsilane | 99.4 g | BrC[C@@H](CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C | C20H27BrOSi
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | tert-butyl(S)-5-(tert-butyldiphenylsilanyloxy)-2-(diethoxyphosphoryl)-4-methylvalerate | 74.6 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC(C[C@@H](C(=O)OC(C)(C)C)P(=O)(OCC)OCC)C | C30H47O6PSi
